US04002746
2-(6-m-Methoxyphenyl-3-oxohexyl)-2-methylcyclopentane-1,3-dione
Add sodium (0.05 g) to a 0.12% methanolic potassium hydroxide solution (15 cc). To this solution add 1-bromo-6-(m-methoxyphenyl)hexan-3-one (0.9 g) in methanol (5 cc) and 2-methylcyclopentane-1,3-dione (0.4 g), and reflux the mixture for 6 hours. After working up as in the preparation of the title compound in a previous example, obtain the crude Michael adduct 2-(6-m-methoxyphenyl-3-oxohexyl)-2-methylcyclopentane-1,3-dione as a yellow gum.

reactant | sodium | 0.05 g | [Na] | Na
reactant | potassium hydroxide | 15 cc | [OH-].[K+]
reactant | 1-bromo-6-(m-methoxyphenyl)hexan-3-one | 0.9 g | BrCCC(CCCC1=CC(=CC=C1)OC)=O | C13H17BrO2
reactant | methanol | 5 cc | CO | CH4O
solvent | 2-methylcyclopentane-1,3-dione | 0.4 g | CC1C(CCC1=O)=O | C6H8O2
product | 2-(6-m-Methoxyphenyl-3-oxohexyl)-2-methylcyclopentane-1,3-dione | COC=1C=C(C=CC1)CCCC(CCC1(C(CCC1=O)=O)C)=O | C19H24O4
